US05508273
O,O-Diethyl bis(3-trifluoromethylphenyl)methylphosphonate
A solution containing 3,3'-bis(trifluoromethyl)benzhydryl bromide (29.8 g, 77.6 mmol), prepared according to methods in Example 3 and triethyl phosphite (21.6 mL, 126 mmol), was heated at 155°-160° C. for 16 hours, under N2. The reaction mixture was cooled and washed with H2O (2×150 mL) to remove the excess triethyl phosphite. The non-aqueous portion was added to CH2Cl2 (150 mL), dried (MgSO4), filtered, and concentrated in volume to give a pale yellow oil, 30.1 g. The crude product was chromatographed on a silica gel column. Elution with ethyl acetate/hexane (1:1) afforded analytically pure product as a white solid, 10.7 g, (31.2%), mp 82°-85° C. 300MHz 1H NMR (CDCl3): δ,4.54 (d,1H, J=25.3 Hz, PCH). MS: 441 (M+1).

reactant | 3,3'-bis(trifluoromethyl)benzhydryl bromide | 77.6 mmol, 29.8 g | FC(C=1C=C(C(C2=CC(=CC=C2)C(F)(F)F)Br)C=CC1)(F)F | C15H9BrF6
reactant | triethyl phosphite | 126 mmol, 21.6 mL | P(OCC)(OCC)OCC | C6H15O3P
product | O,O-Diethyl bis(3-trifluoromethylphenyl)methylphosphonate | FC(C=1C=C(C=CC1)C(C1=CC(=CC=C1)C(F)(F)F)P(OCC)(OCC)=O)(F)F | C19H19F6O3P
